US04492710
(b) Methyl 3-amino-5-dimethylaminomethyleneaminosulfonyl-4-(3-pyridyloxy)-benzoate
150 g of methyl 5-dimethylaminomethyleneaminosulfonyl-3-nitro-4-(3-pyridyloxy)-benzoate are hydrogenated in dimethylformamide at 50° C. and under 50 atmospheres for 15 hours in an autoclave, using Raney nickel as the catalyst. The reaction mixture is then filtered, the filtrate is concentrated and the residue is recrystallized from dimethylformamide/CH3OH.

reactant | methyl 5-dimethylaminomethyleneaminosulfonyl-3-nitro-4-(3-pyridyloxy)-benzoate | 150 g | CN(C)C=NS(=O)(=O)C=1C(=C(C=C(C(=O)OC)C1)[N+](=O)[O-])OC=1C=NC=CC1 | C16H16N4O7S
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | Raney nickel | [Ni] | Ni
product | Methyl 3-amino-5-dimethylaminomethyleneaminosulfonyl-4-(3-pyridyloxy)-benzoate | NC=1C=C(C(=O)OC)C=C(C1OC=1C=NC=CC1)S(=O)(=O)N=CN(C)C | C16H18N4O5S
